US05594021
Chlorosulfonic acid (20 ml, 300 mmol) was added to a solution of 3-bromothiophene (8.15 g, 50 mmol) in methylene chloride (50 ml) at -78° C. over a 20 min. period. After the completion of addition, the cold bath was removed and stirring continued at ambient temperature for 1 hr. The reaction mixture was carefully added, dropwise, to crushed ice (100 g). The mixture was extracted with methylene chloride (2×100 ml). The combined organic layers was dried over MgSO4 and evaporated. The crude product was purified by flash chromatography on silica gel using hexane as the eluent resulting in 3-bromothiophene-2-sulfonyl chloride (4 g, 30% yield) and 4-bromothiophene-2-sulfonyl chloride (200 mg, ≤1%).

reactant | Chlorosulfonic acid | 300 mmol, 20 ml | ClS(=O)(=O)O | ClHO3S
reactant | 3-bromothiophene | 50 mmol, 8.15 g | BrC1=CSC=C1 | C4H3BrS
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-bromothiophene-2-sulfonyl chloride | 4 g, 30% yield | BrC1=C(SC=C1)S(=O)(=O)Cl | C4H2BrClO2S2
